US08426447B2
To a solution of (S)-2′-amino-7-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-3-ol (390 mg, 1.120 mmol) in DMF (4481 μL, 1.120 mmol) in a sealed tube was added cesium carbonate (912 mg, 2.80 mmol). After stirring for 1 minute neopentyl iodide (223 μL, 1.680 mmol) was added, the reaction vessel was sealed and heated at 100° C. for 2.5 hours. Reaction was cooled to RT to prevent over alkylation. The reaction was diluted with water (25 mL) and 10 mL of ethyl acetate and stirred for 30 minutes before being poured into a separatory funnel containing ethyl acetate (100 mL) and water (250 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×50 mL). The aqueous layer was then extracted with DCM (3×50 mL). The organic layers were each washed with water and then brine, at which point all the organics were combined, dried over sodium sulfate, filtered and concentrated in vacuo to provide a brown foam that was purified by silica gel chromatography (Redi-Sep pre-packed silica gel column (40 g), 0-10% methanol in methylenechloride with 0.1% ammonium hydroxide) to provide (S)-7-bromo-3-(neopentyloxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a yellow solid.

reactant | (S)-2′-amino-7-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-3-ol | 1.120 mmol, 390 mg | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)O)Br | C14H10BrN3O3
reactant | DMF | 1.120 mmol, 4481 μL | CN(C)C=O | C3H7NO
reactant | cesium carbonate | 2.80 mmol, 912 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | neopentyl iodide | 1.680 mmol, 223 μL | C(C(C)(C)C)I | C5H11I
solvent | water | 25 mL | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 250 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (S)-7-bromo-3-(neopentyloxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | BrC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)OCC(C)(C)C | C19H20BrN3O3
